US05354759
To a mixture of 3-[4-(3-cyano-1-ethyl-5-methyl-2-pyrrolyl)benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine (1.52 g) in xylene (15 ml) was added trimethyltin azid (2.26 g) under nitrogen atmosphere, and stirred at 125° C. for 24 hours. The mixture was concentrated in vacuo. To the residue was added methanol and conc. hydrochloric acid (1 ml). The mixture was stirred at ambient temperature for one hour and concentrated in vacuo. The residue was diluted with methanol. The mixture was adjusted to pH4 with 1N sodium hydroxide. The organic layer was separated, and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel (elution by dichloromethane/methanol=15/1) and subsequent crystallization from methyl cyanide to give amorphous powder (1.47 g) of 3-[4-[1-ethyl-5-methyl-3-(1H-tetrazol-5-yl)-2-pyrrolyl]benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine.

reactant | 3-[4-(3-cyano-1-ethyl-5-methyl-2-pyrrolyl)benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine | 1.52 g | C(#N)C1=C(N(C(=C1)C)CC)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)SCC)C=C1 | C24H25N5S
reactant | trimethyltin azid | 2.26 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[4-[1-ethyl-5-methyl-3-(1H-tetrazol-5-yl)-2-pyrrolyl]benzyl]-2-ethylthio-7-methyl-3H-imidazo[4,5-b]pyridine | 1.47 g | C(C)N1C(=C(C=C1C)C1=NN=NN1)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)SCC)C=C1 | C24H26N8S
